US04073799
In accordance with the process of Reference 1, sodium hydride (1.20 g; 50 m mol), methyl acetoacetate (5.70 g; 50 m mol), n-butyl lithium (50 m mol) and trans-crotyl chloride (4.43 g; 50 m mol) were used to obtain 3.60 g of (E)-3-oxo-6-octenoic acid methyl ester.

reactant | sodium hydride | 1.20 g | [H-].[Na+]
reactant | methyl acetoacetate | 5.70 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | trans-crotyl chloride | 4.43 g | C(\C=C\C)Cl | C4H7Cl
product | (E)-3-oxo-6-octenoic acid methyl ester | 3.60 g | COC(CC(CC\C=C\C)=O)=O | C9H14O3
